US07541373B2
3-[{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-(2-methoxycarbonyl-ethyl)-amino]-propionic acid methyl ester (114 mg, 86%) was prepared by heating 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (90 mg, 0.25 mmol) with methyl acrylate (0.1 mL, 1.1 mmol) and Cs2CO3 (325 mg, 1.0 mmol) in THF (5 mL) at 60° C. for 2 h followed by column purification [silica, DCM:ethyl acetate (80:20 to 20:80)].

reactant | 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.25 mmol, 90 mg | NCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C18H22N4O2S
reactant | methyl acrylate | 1.1 mmol, 0.1 mL | C(C=C)(=O)OC | C4H6O2
reactant | Cs2CO3 | 1.0 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-(2-methoxycarbonyl-ethyl)-amino]-propionic acid methyl ester | 114 mg, 86% | COC(CCN(CCC(=O)OC)CC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C26H34N4O6S
